US08420849B2
2-(4-Fluorophenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (6.3 mL) solution of 2-(4-fluorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (0.63 g, 2.38 mmol, purity: 90%) was cooled to −12° C., and to this solution, a chloroform (1.3 mL) solution of sulfuryl chloride (0.23 mL, 1.2 equivalent amounts) was dropwise added over a period of 6 minutes, followed by stirring at −11° C. for 2 hours. The temperature of the solution was raised to 3° C., and water (1.3 mL) was dropwise added, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a sodium hydroxide aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to give the desired product as a yellow solid (0.28 g, yield: 50%).

reactant | chloroform | 6.3 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-fluorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 2.38 mmol, 0.63 g | FC1=CC=C(C=C1)C1SCC(=C1O)C(=O)C | C12H11FO2S
reactant | chloroform | 1.3 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 0.23 mL, 1.2 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 1.3 mL | O | H2O
product | 2-(4-Fluorophenyl)-3-hydroxy-4-methylcarbonyl thiophene | 0.28 g, yield: 50% | FC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C12H9FO2S
